US06310070B1
An amidation reaction and post-treatment were carried out under the same conditions as in Example 1, using 2.63 g (9.66 mmol) of 4-amino-1-(4-t-butylbenzyl)-5-imidazolecarboxamide which was prepared in the same manner as in Example 57 and 4-fluorobenzoyl Chloride instead of benzoyl chloride to obtain 2.13 g of 1-(4-t-butylbenzyl)-4-(4-fluorobenzoylamino)-5-imidazolecarboxamide (yield 56%).

reactant | 4-amino-1-(4-t-butylbenzyl)-5-imidazolecarboxamide | 9.66 mmol, 2.63 g | NC=1N=CN(C1C(=O)N)CC1=CC=C(C=C1)C(C)(C)C | C15H20N4O
reactant | 4-fluorobenzoyl Chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 1-(4-t-butylbenzyl)-4-(4-fluorobenzoylamino)-5-imidazolecarboxamide | 2.13 g, yield 56% | C(C)(C)(C)C1=CC=C(CN2C=NC(=C2C(=O)N)NC(C2=CC=C(C=C2)F)=O)C=C1 | C22H23FN4O2
